US07030128B2
2-(Imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile (100 mg, 0.51 mmol), 2-(6-bromopyridin-2-yl)benzonitrile (159 mg, 0.61 mmol) and cesium carbonate (332 mg, 1.02 mmol) were suspended in 1,4-dioxane and degassed with nitrogen for 20 min. Tetrakis(triphenylphosphine)-palladium(0) (29 mg, 0.025 mmol) was added and the mixture was heated at 80° C. for 3 h. The reaction was cooled to ambient temperature then diluted with water (60 ml) and extracted with ethyl acetate (2×100 ml). The combined organic extracts were washed with brine (70 ml), dried over anhydrous sodium sulfate, filtered and evaporated to give a pale yellow oil. The oil was purified by chromatography on silica gel eluting with dichloromethane on a gradient of methanol (0-1%). Collecting appropriate fractions followed by recrystallisation from ethyl acetate/isohexane gave 2-{6-[7-(1-cyano-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]pyridin-2-yl}benzonitrile (70 mg, 38%) as a white solid: δH (360 MHz, CDCl3) 1.86 (6H, s), 7.43 (1H, d, J 7), 7.59-7.63 (2H, m), 7.80 (2H, m), 7.86-7.97 (3H, m), 8.42 (1H, s), 10.44 (1H, d, J 7); m/z (ES+) 365 (M++H).

reactant | 2-(Imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile | 0.51 mmol, 100 mg | N=1C=CN2C1N=C(C=C2)C(C#N)(C)C | C10H10N4
reactant | 2-(6-bromopyridin-2-yl)benzonitrile | 0.61 mmol, 159 mg | BrC1=CC=CC(=N1)C1=C(C#N)C=CC=C1 | C12H7BrN2
reactant | cesium carbonate | 1.02 mmol, 332 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)-palladium(0) | 0.025 mmol, 29 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-{6-[7-(1-cyano-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]pyridin-2-yl}benzonitrile | 70 mg, 38% | C(#N)C(C)(C)C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C2=C(C#N)C=CC=C2 | C22H16N6
